US06255494B1
Preparation of 4-(ethenyl)2-[(4-chlorophenoxy)methyl]-1-[3-[1-[3-(phenyl)propyl]piperidin-4-yl]propyl]benzimidazole
In a 50 ml round bottom flask, under a nitrogen atmosphere, were added 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole (898 mg, 2.12 mmol), potassium carbonate (1.46 g, 10.58 mmol), 3-(phenyl)propyl chloride (0.2 ml, 506 mg, 2.54 mmol) and N,N-dimethylformamide (7 ml). The resulting mixture was heated to 60° C. and maintained at this temperature overnight. The progress of the reaction was monitored by thin layer chromatography. The reaction was quenched by the addition of water. The aqueous fraction was extracted wtih ethyl acetate. The organic fractions were combined, washed thrice with saturated sodium bicarbonate solution, and then dried over sodium sulfate. The solvents were removed in vacuo. The desired title product was further purified by radial chromatography.

reactant | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole | 2.12 mmol, 898 mg | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCNCC2 | C25H30ClN3O
reactant | potassium carbonate | 10.58 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(phenyl)propyl chloride | 2.54 mmol, 0.2 ml, 506 mg | C1(=CC=CC=C1)CCCCl | C9H11Cl
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-(ethenyl)2-[(4-chlorophenoxy)methyl]-1-[3-[1-[3-(phenyl)propyl]piperidin-4-yl]propyl]benzimidazole | C(=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)CCCC2=CC=CC=C2 | C33H38ClN3O
